US06638929B2
A mixture of 1.27 g (2.3 mmol) of 8-(2-chloroethoxy)-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxybenzo[g]quinoline-3-carbonitrile, 4.0 mL of morpholine and 0.1 g of sodium iodide in 10 mL of 1,2-dimethoxyethane is heated under reflux for 16 hours. After allowing the reaction to cool, the solvent is evaporated to yield a residue, which is stirred with saturated sodium bicarbonate. The solid is collected by filtration, washed with water and dried. The crude product is purified by silica gel chromatography, utilizing a gradient of 98:2 to 90:10 of methylene chloride/methanol to give 0.53 g of 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinoline-3-carbonitrile as a yellow solid, mp>300° C.

reactant | 8-(2-chloroethoxy)-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxybenzo[g]quinoline-3-carbonitrile | 2.3 mmol, 1.27 g | ClCCOC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)NC2=CC(=C(C=C2)SC=2N(C=CN2)C)Cl)C=C1OC | C27H21Cl2N5O2S
reactant | morpholine | 4.0 mL | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinoline-3-carbonitrile | 0.53 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC)C#N | C31H29ClN6O3S
